US08729263B2
4-Bromo-3-methoxyaniline (3.0 g, 14.85 mmol) was suspended in concentrated HCl (50 mL) and the mixture was cooled to 0° C. in the ice-water bath. A solution of sodium nitrite (1.23 g, 17.82 mmol) in 10 mL water was added very slowly to the reaction mixture. The mixture turned yellow, then brown with a yellow haze indicating diazotization. The diazonium salt was held at 0° C. for an hour and then a solution of tin(II) chloride dihydrate (10.05 g, 44.5 mmol) in concentrated HCl (20 mL) was added very slowly (caution, extremely exothermic). The reaction was stirred for 2 h at 0° C. then at RT overnight. The reaction was filtered and the filter cake was washed with cold H2O to afford (4-bromo-3-methoxyphenyl)hydrazine as a tan solid (3.1 g, MS: 218 [M+H+]).

reactant | 4-Bromo-3-methoxyaniline | 14.85 mmol, 3.0 g | BrC1=C(C=C(N)C=C1)OC | C7H8BrNO
reactant | sodium nitrite | 17.82 mmol, 1.23 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | 44.5 mmol, 10.05 g | O.O.[Sn](Cl)Cl
solvent | HCl | 50 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | HCl | 20 mL | Cl | ClH
product | (4-bromo-3-methoxyphenyl)hydrazine | BrC1=C(C=C(C=C1)NN)OC | C7H9BrN2O
